US05519034
A solution of 1-(2-chlorophenyl)cyclopropane carbonyl chloride (25 g) in dichloromethane (100 ml) was added dropwise to a vigorously stirred mixture of 2-(3-fluoro-4-methoxyphenyl)ethylamine hydrochloride (23.9 g), triethylamine (70 ml) and dichloromethane (400 ml) and the mixture was then stirred for 1 hour. Excess 6N hydrochloric acid was then added. The resulting solution was washed with water, dried over potassium carbonate, and the solvent removed in vacuo to give N-[2-(3-fluoro-4-methoxyphenyl)ethyl]-1-(2-chlorophenyl)cyclopropane carboxamide which was added molten to polyphosphate ester (365 g) under nitrogen. The mixture was heated at 100° C. for 17 hours, then added to water (600 ml) and washed with ether (600 ml). 20% Aqueous ammonia solution was added to the aqueous phase to give pH 8-9.The resulting precipitate was collected by filtration, washed with water, dried in air and recrystallised from boiling acetonitrile to give 1-[1-(2-chlorophenyl)cyclopropyl]-6-fluoro-7 -methoxy-3,4-dihydroisoquinoline, m.p. 172°-176° C.

reactant | 1-(2-chlorophenyl)cyclopropane carbonyl chloride | 25 g | ClC1=C(C=CC=C1)C1(CC1)C(=O)Cl | C10H8Cl2O
reactant | 2-(3-fluoro-4-methoxyphenyl)ethylamine hydrochloride | 23.9 g | Cl.FC=1C=C(C=CC1OC)CCN
reactant | triethylamine | 70 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | N-[2-(3-fluoro-4-methoxyphenyl)ethyl]-1-(2-chlorophenyl)cyclopropane carboxamide | FC=1C=C(C=CC1OC)CCNC(=O)C1(CC1)C1=C(C=CC=C1)Cl | C19H19ClFNO2
